US08026257B2
tert-Butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate.
tert-Butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate and tert-Butyl 4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate. To a solution of tert-butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (350 mg, 0.715 mmol) in dimethylformamide (4 mL) at 0° C. was added sodium hydride (60% in mineral oil, 57.2 mg, 1.43 mmol). After 5 min, the reaction was treated with iodomethane (0.089 mL, 1.43 mmol). After 30 min, the reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The organics were washed with water (3×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%→75% EtOAc/Hex) gave two fractions. The faster eluting fraction was concentrated to give tert-butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (187 mg, 52%). The second fraction was concentrated to give tert-butyl 4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (76.5 mg, 21%). tert-Butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate: 1H-NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H), 7.93 (s, 1H), 7.30 (s, 1H), 7.22 (m, 4H), 7.17 (m, 1H), 4.66 (s, 2H), 3.91 (s, 3H), 3.67 (m, 2H), 3.45 (s, 2H), 3.00 (m, 2H), 2.13 (m, 2H), 1.77 (m, 2H), 1.41 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 155.0, 142.6, 139.4, 133.9, 128.5, 127.1, 126.5, 124.8, 124.7 (q, J=272 Hz), 124.5, 122.5 (q, J=33 Hz), 121.1, 119.7 (q, J=3.8 Hz), 79.4, 79.2, 70.7, 41.5, 40.0 (br), 38.2, 32.2, 28.5. tert-Butyl 4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate: 1H-NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H), 7.88 (s, 1H), 7.42 (m, 2H), 7.37 (m, 2H), 7.29 (s, 1H), 7.25 (m, 1H), 4.85 (s, 2H), 4.22 (s, 3H), 3.76 (m, 2H), 3.58 (s, 2H), 3.09 (m, 2H), 2.24 (m, 2H), 1.97 (m, 2H), 1.46 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 155.1, 147.6, 142.9, 129.2, 128.5, 127.3, 126.4, 125.6, 124.9 (q, J=272 Hz), 124.1 (q, J=33 Hz), 120.7, 118.7, 117.6 (q, J=4.8 Hz), 79.9, 79.3, 68.7, 41.9, 40.7, 40.0 (br), 32.0, 28.6.

reactant | tert-Butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | CN1N=CC2=CC(=CC(=C12)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(F)(F)F | C27H32F3N3O3
reactant | tert-Butyl 4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | CN1N=C2C(=CC(=CC2=C1)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C27H32F3N3O3
product | tert-Butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C26H30F3N3O3
